US03954754
EXAMPLE 54: 5,6,7,8-Tetrahydro-3-(1-methylhydrazino)-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester
A solution of 4.8 g of 5,6,7,8-tetrahydro-3-mercapto-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester in 20 cc of methylhydrazine is stirred at a bath temperature of 100° for 1 hour. The reaction solution is cooled with ice, and the precipitated reaction product is filtered off. The title compound has a M.P. 121°-123° (decomp., from dimethoxyethane).

reactant | 5,6,7,8-tetrahydro-3-mercapto-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | 4.8 g | C(C)OC(=O)N1CC2=C(N=NC(=C2)S)CC1 | C10H13N3O2S
reactant | methylhydrazine | 20 cc | CNN | CH6N2
product | 5,6,7,8-Tetrahydro-3-(1-methylhydrazino)-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC(=C2)N(N)C)CC1 | C11H17N5O2
